2157-07-15 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transferred from floor to MICU for hypoxia and AMS
   - Intubated for hypoxic/hypercarbic respiratory failure
   - Started vanc/zosyn/levo
   - pan-cultured
   - Ex-wife, [**Name (NI) 1028**], states he would want to be DNR, she is not HCP as he
   did not sign papers [**2-7**] paranoia.  Has 4 daughters, so will need to
   clarify who makes decisions with SW.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2157-7-14**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2157-7-14**] 09:15 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-7-14**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2157-7-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-15**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 91 (84 - 131) bpm
   BP: 123/47(67) {106/47(64) - 123/52(70)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
             Total In:
                                                                    931 mL
                                                                    133 mL
   PO:
             TF:
   IVF:
                                                                    931 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                     20 mL
   Urine:
                                                                  1,010 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -79 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 17 cmH2O
   SpO2: 90%
   ABG: 7.34/77.[**Numeric Identifier **]/85.[**Numeric Identifier 433**]/36/11
   Ve: 6.6 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: intubated, sedated, no acute distress
   HEENT: Sclera mildly icteric, MMM, ET tube in place
   Neck: supple
   Lungs: Diminished breath sounds bilaterally, also with rhonchi and
   crackles on Right.
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, Obese, bowel sounds present, no organomegaly
   noted.  Large umbilical hernia, easily reducible.
   GU: Profound scrotal swelling
   Ext: warm, well perfused, 2+ DP pulses palpated through edema, 3+ edema
   to mid thigh and extensive scrotal edema as above, large areas of
   erythema over legs bilateral.
   Neuro: sedated but withdraws to pain
   Labs / Radiology
   160 K/uL
   8.8 g/dL
   100 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.7 mEq/L
   15 mg/dL
   87 mEq/L
   128 mEq/L
   26.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2157-7-11**]  05:46 PM
                             [**2157-7-12**]  03:24 AM
                             [**2157-7-14**]  06:27 PM
                             [**2157-7-14**]  08:17 PM
                             [**2157-7-14**]  11:25 PM
                             [**2157-7-15**]  12:59 AM
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
   WBC
   6.5
   6.2
   4.7
   Hct
   30.8
   29.5
   26.2
   Plt
   227
   189
   160
   Cr
   0.8
   0.7
   0.6
   0.7
   TropT
   <0.01
   TCO2
   41
   44
   42
   44
   Glucose
   107
   107
   148
   100
   Other labs: PT / PTT / INR:13.3/32.6/1.1, ALT / AST:[**12-22**], Alk Phos / T
   Bili:60/4.4, LDH:224 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.7
   mg/dL
[**2157-7-14**] 9:10 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2157-7-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   [**2157-7-15**] CXR: Some improvement in right lung aeration but persistence
   of poorly defined right heart border, also with obscuring of left heart
   border and diaphragm with likely some component from positioning.
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   .
   # Pneumonia/ hypoxic/hypercarbic respiratory failure: In setting of
   altered mental status with administration of narcotics and baseline
   COPD, may have had aspiration event (pneumonia v. pneumonitis) with
   subsequent plugging and lobar collapse. Hypercarbia may be driven by
   hypoxia v. diuresis.
   - bronch today
   - abx as above
   - MDIs
   - f/u sputum cx
   - attempt to transition pt to PS today
   - daily wake up and RSBI
   .
   # ?Sepsis: Fever in absence of leukocytosis; pt remains hemodynamically
   stable. Unclear infectious v. related to albumin infusion. Concern for
   pneumonia given chest imaging
 aspiration pneumonia v. pneumonitis.
   Other infectious sources include SBP although not large amount ascites
   on CT abd as well as worsening cellulitis.
   - broad abx coverage with vanc/cefepime/flagyl pending further micro
   data (blood, urine and sputum cx)
   - repeat ABG
   - repeat CXR in AM
   .
   # Altered mental status: Etiology unclear at this point. [**Month (only) 11**] be sepsis
   from pna, encephalopathy, hypercarbia, or less likely accumulation of
   morphine from earlier doses.
   - intubated for airway protection
   - treat pna as above
   - cont lactulose for possible encephalopathy.
   - hold off on CT head or LP for now
   .
   # Anemia: dropped from 29 to 26 today, no obvious signs of bleeding.
   - guaiac stools
   - PM HCT
   .
   # Low UOP: patient does not have a foley and will likely need one now.
   - reconsult urology for foley placement.
   .
   # Lower extremity edema/possible cellulitis: Likely related to portal
   htn/cirrhosis. Long hx of inguinoscrotal hernia, now worsened by
   current volume overloaded state. Currently without dyspnea or pain.
   - demarcated both legs -> monitor for extension of erythema
   - on broad spectrum abx as above
   .
   # Hyponatremia: Hypervolemic as above. Urine Na of 15 and FeNa of 0.1%
   suggest cardiac or cirrhosis as etiology.  Psyche meds include
   risperdol.
   - monitor Na Q4 hrs and aim for 0.5 mEq per hr.
   .
   # Schizophrenia: Currently intubated.
   - Cont risperdal
   - Hold ativan
   .
   # COPD: severe by PFTs in [**2155**] with FEV1 33% and FVC 51% of predicted
   - combivent nebs PRN
   .
   # Goals of care: Ex-wife, [**Name (NI) 1028**] [**Name (NI) 7142**], states that in the past he did
   not want any life saving measures, but did not want to sign anything
   due to his paranoia.  When he arrived during this hospitalization, he
   indicated he would like everything done, so his code status is full
   now.  She would like palliative care to come by in the morning to
   discuss goals of care.
   - palliative care consult
   - speak with SW/Legal re: establishment of guardianship
   ICU Care
   Nutrition: Tube feeding recs
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-7-14**] 08:00 PM
   Arterial Line - [**2157-7-14**] 11:00 PM
   18 Gauge - [**2157-7-15**] 01:09 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:  Bundle
   Comments:
   Communication:  Comments: Patient, [**Name (NI) 7147**] [**Name (NI) 1028**] [**Telephone/Fax (1) 7148**] (H)
   [**Telephone/Fax (1) 7149**] (C), Program RN [**First Name4 (NamePattern1) 469**] [**Last Name (NamePattern1) 7144**] [**Telephone/Fax (1) 7150**]
   Code status: Full code, will need to confirm with wife with input from
   SW/palliative care
   Disposition: ICU

2157-07-16 06:18:00 Physician Attending Progress Note
TITLE:
   24 Hour Events:
 BRONCHOSCOPY - At [**2157-7-15**] 11:01 AM
   - Bronch: Thick plugs throughout right airways with purulent drainage
   distally; sent BAL and washings. No microorg seen on gram stain.
   - Foley placed by Urology
   - PICC unable to be placed; to be done tmrw.
   - Renal: Hold diuresis until hemodynamics more stable. Place all
   - Liver: No diuresis for now. Will readdress liver f/u and EGD with pt
   when extubated.
   - Extensive conversations between family and SW and palliative care.
   Decision made for DNR, ok to cont intubation for now for presumed
   reversible cause; would not want long-term. Will rediscuss whether ok
   to reintubate in AM with ex-wife. [**Name (NI) 83**] need to pursue guardianship at
   this time as cohesive family unit defers to ex-wife.
   - Received risperdol [**Month (only) 202**] injection
   - Sedation weaned and put on PS trial. ABG 7.42/58/67. Placed back on
   A/C after 3 hours as concern that he may self-extubate if agitated.
   - PM Hct stable (26.5).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-7-14**] 09:15 PM
   Metronidazole - [**2157-7-15**] 08:00 PM
   Vancomycin - [**2157-7-15**] 08:19 PM
   Meropenem - [**2157-7-16**] 12:18 AM
   Cefipime - [**2157-7-16**] 04:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-7-15**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-16**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 87 (64 - 90) bpm
   BP: 142/60(83) {101/47(63) - 154/67(92)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,421 mL
                                                                    314 mL
   PO:
             TF:
                                                                     58 mL
                                                                      3 mL
   IVF:
                                                                  1,363 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    460 mL
   Urine:
                                                                  1,640 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 481 (481 - 481) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/58/67/32/10
   Ve: 8 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General: intubated, sedated, no acute distress
   HEENT: Sclera mildly icteric, MMM, ET tube in place
   Neck: supple
   Lungs: Diminished breath sounds bilaterally, also with rhonchi and
   crackles on Right.
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, Obese, bowel sounds present, no organomegaly
   noted.  Large umbilical hernia, easily reducible.
   GU: Profound scrotal swelling
   Ext: warm, well perfused, 2+ DP pulses palpated through edema, 3+ edema
   to mid thigh and extensive scrotal edema as above, large areas of
   erythema over legs bilateral.
   Neuro: sedated but withdraws to pain
   Labs / Radiology
   8.5 g/dL
   156 K/uL
   98 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.1 mEq/L
   12 mg/dL
   88 mEq/L
   129 mEq/L
   25.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2157-7-14**]  06:27 PM
                             [**2157-7-14**]  08:17 PM
                             [**2157-7-14**]  11:25 PM
                             [**2157-7-15**]  12:59 AM
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
   WBC
   6.2
   4.7
   3.8
   Hct
   29.5
   26.2
   26.5
   25.4
   Plt
   189
   160
   156
   Cr
   0.6
   0.7
   0.5
   TropT
   <0.01
   TCO2
   41
   44
   42
   44
   42
   39
   Glucose
   148
   100
   98
   Other labs: PT / PTT / INR:12.8/36.6/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**12-22**], Alk Phos / T Bili:60/4.4,
   Differential-Neuts:86.8 %, Lymph:5.2 %, Mono:7.5 %, Eos:0.5 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   .
   # Pneumonia/ hypoxic/hypercarbic respiratory failure: In setting of
   altered mental status with administration of narcotics and baseline
   COPD, may have had aspiration event (pneumonia v. pneumonitis) with
   subsequent plugging and lobar collapse. Hypercarbia may be driven by
   hypoxia v. diuresis.
   - bronch today
   - abx as above
   - MDIs
   - f/u sputum cx
   - attempt to transition pt to PS today
   - daily wake up and RSBI
   .
   # ?Sepsis: Fever in absence of leukocytosis; pt remains hemodynamically
   stable. Unclear infectious v. related to albumin infusion. Concern for
   pneumonia given chest imaging
 aspiration pneumonia v. pneumonitis.
   Other infectious sources include SBP although not large amount ascites
   on CT abd as well as worsening cellulitis.
   - broad abx coverage with vanc/cefepime/flagyl pending further micro
   data (blood, urine and sputum cx)
   - repeat ABG
   - repeat CXR in AM
   .
   # Altered mental status: Etiology unclear at this point. [**Month (only) 11**] be sepsis
   from pna, encephalopathy, hypercarbia, or less likely accumulation of
   morphine from earlier doses.
   - intubated for airway protection
   - treat pna as above
   - cont lactulose for possible encephalopathy.
   - hold off on CT head or LP for now
   .
   # Anemia: dropped from 29 to 26 today, no obvious signs of bleeding.
   - guaiac stools
   - PM HCT
   .
   # Low UOP: patient does not have a foley and will likely need one now.
   - reconsult urology for foley placement.
   .
   # Lower extremity edema/possible cellulitis: Likely related to portal
   htn/cirrhosis. Long hx of inguinoscrotal hernia, now worsened by
   current volume overloaded state. Currently without dyspnea or pain.
   - demarcated both legs -> monitor for extension of erythema
   - on broad spectrum abx as above
   .
   # Hyponatremia: Hypervolemic as above. Urine Na of 15 and FeNa of 0.1%
   suggest cardiac or cirrhosis as etiology.  Psyche meds include
   risperdol.
   - monitor Na Q4 hrs and aim for 0.5 mEq per hr.
   .
   # Schizophrenia: Currently intubated.
   - Cont risperdal
   - Hold ativan
   .
   # COPD: severe by PFTs in [**2155**] with FEV1 33% and FVC 51% of predicted
   - combivent nebs PRN
   .
   # Goals of care: Ex-wife, [**Name (NI) 1028**] [**Name (NI) 7142**], states that in the past he did
   not want any life saving measures, but did not want to sign anything
   due to his paranoia.  When he arrived during this hospitalization, he
   indicated he would like everything done, so his code status is full
   now.  She would like palliative care to come by in the morning to
   discuss goals of care.
   - palliative care consult
   - speak with SW/Legal re: establishment of guardianship
   ICU Care
   Nutrition: Holding tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-7-14**] 08:00 PM
   Arterial Line - [**2157-7-14**] 11:00 PM
   18 Gauge - [**2157-7-15**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient, [**Name (NI) 7147**] [**Name (NI) 1028**] [**Telephone/Fax (1) 7148**] (H)
   [**Telephone/Fax (1) 7149**] (C), Program RN [**First Name4 (NamePattern1) 469**] [**Last Name (NamePattern1) 7144**] [**Telephone/Fax (1) 7150**]
   Code status: DNR, reintubation status to be readdressed with [**Doctor First Name 1028**]
   today
   Disposition : ICU

2157-07-16 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2157-7-15**] 11:01 AM
   - Bronch: Thick plugs throughout right airways with purulent drainage
   distally; sent BAL and washings. No microorg seen on gram stain.
   - Foley placed by Urology
   - PICC unable to be placed; to be done tomorrow.
   - Renal: Hold diuresis until hemodynamics more stable. Place all
   medications in normal saline instead of D5W given hyponatremia
   - Liver: No diuresis for now. Will readdress liver f/u and EGD with pt
   when extubated.
   - Extensive conversations between family and SW and palliative care.
   Decision made for DNR, ok to cont intubation for now for presumed
   reversible cause; would not want long-term. Will rediscuss whether ok
   to reintubate in AM with ex-wife. [**Name (NI) 83**] need to pursue guardianship at
   this time as cohesive family unit defers to ex-wife.
   - Received risperdol [**Month (only) 202**] injection
   - Sedation weaned and put on PS trial. ABG 7.42/58/67. Placed back on
   A/C after 3 hours as concern that he may self-extubate if agitated.
   - PM Hct stable (26.5).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-7-14**] 09:15 PM
   Metronidazole - [**2157-7-15**] 08:00 PM
   Vancomycin - [**2157-7-15**] 08:19 PM
   Meropenem - [**2157-7-16**] 12:18 AM
   Cefipime - [**2157-7-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-7-15**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-16**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 84 (64 - 90) bpm
   BP: 140/59(83) {101/47(63) - 154/67(92)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,421 mL
                                                                    321 mL
   PO:
             TF:
                                                                     58 mL
                                                                      3 mL
   IVF:
                                                                  1,363 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    460 mL
   Urine:
                                                                  1,640 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 511 (481 - 511) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/58/67/32/10
   Ve: 8.8 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General: intubated, sedated, no acute distress
   HEENT: Sclera mildly icteric, MMM, ET tube in place
   Neck: supple
   Lungs: Diminished breath sounds bilaterally, also with rhonchi and
   crackles on Right.
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, Obese, bowel sounds present, no organomegaly
   noted.  Large umbilical hernia, easily reducible.
   GU: Profound scrotal swelling
   Ext: warm, well perfused, 2+ DP pulses palpated through edema, 3+ edema
   to mid thigh and extensive scrotal edema as above, large areas of
   erythema over legs bilateral.
   Neuro: sedated but withdraws to pain
   Labs / Radiology
   156 K/uL
   8.5 g/dL
   98 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.1 mEq/L
   12 mg/dL
   88 mEq/L
   129 mEq/L
   25.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2157-7-14**]  06:27 PM
                             [**2157-7-14**]  08:17 PM
                             [**2157-7-14**]  11:25 PM
                             [**2157-7-15**]  12:59 AM
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
   WBC
   6.2
   4.7
   3.8
   Hct
   29.5
   26.2
   26.5
   25.4
   Plt
   189
   160
   156
   Cr
   0.6
   0.7
   0.5
   TropT
   <0.01
   TCO2
   41
   44
   42
   44
   42
   39
   Glucose
   148
   100
   98
   Other labs: PT / PTT / INR:12.8/36.6/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**12-22**], Alk Phos / T Bili:60/4.4,
   Differential-Neuts:86.8 %, Lymph:5.2 %, Mono:7.5 %, Eos:0.5 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Microbiology:
[**2157-7-15**] 11:11 am BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2157-7-15**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
[**2157-7-15**] 8:07 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2157-7-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
[**2157-7-14**] 9:10 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2157-7-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Blood culture from [**2157-7-14**]: no growth to date
   Urine culture [**2157-7-14**]: contaminated
   Imaging:
   Portable CXR [**2157-7-15**]: As compared to the previous radiograph, the
   nasogastric tube and the endotracheal tube are unchanged.  Also
   unchanged is the volume loss in the right hemithorax, the mediastinal
   shift towards the right and the opacity at the right lung base that is
   likely to be caused by a combination of effusion and atelectasis.  The
   size of the cardiac silhouette is at the upper range of normal.  The
   slightly increased diameter of the upper lobe vessels could indicate
   borderline overhydration.  No evidence of newly occurred focal
   parenchymal opacity suggestive of pneumonia.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 EDEMA, PERIPHERAL
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   Pneumonia/ hypoxic/hypercarbic respiratory failure: Likely
   multifactorial.  Patient had been aggressively diuresed on the floor
   and had rising serum bicarbonate and PCO2.  Also received narcotics in
   the setting of altered mental status.  Likely had aspiration event with
   subsequent plugging and lobar collapse. Sputum samples growing gram
   positive cocci in pairs and clusters.  On vancomycin, cefepime and
   flagyl for aspiration/hospital acquired pneumonia.
   - continue vancomycin, cefepime and flagyl for aspiration versus
   hospital acquired pneumonia
   - continue inhalers for COPD
   - f/u speciation of sputum cultures
   - attempt to wean pressures support as tolerated
   - daily wakeups, RSBI
   .
   ?Sepsis:  On arrival to the MICU patient was febrile in the absence of
   leukocytosis with mild hypotension.  [**Month (only) 11**] well have been related to
   aspiration event.  Now hemodynamically stable and afebrile for over 24
   hours
   - broad abx coverage with vanc/cefepime/flagyl pending further micro
   data (blood, urine and sputum cx)
   - can discontinue arterial line as patient is hemodynamically stable
   Altered mental status: Etiology unclear at this point. [**Month (only) 11**] be sepsis
   from pna, encephalopathy, hypercarbia, or less likely accumulation of
   morphine from earlier doses.  Intubated for hypoxic and hypercarbic
   respiratory failure.
   - treat infection as above
   - elevated bicarbonate resolving
   - continue lactulose for possible encephalopathy
   - hold off on CT head and LP for now
   Anemia: Hematocrit has slowly trended down from 33 on admission to 26
   today without obvious signs of bleeding.
   - guaiac all stools
   - active type and screen
   - transfusion goal < 21
   Low UOP:  Resolved.  Urology able to place foley catheter successfully
   yesterday for better monitoring of patient
s urine output.
   - monitor urine output
   - trend creatinine
   Lower extremity edema/possible cellulitis: Likely related to portal
   htn/cirrhosis. Long hx of inguinoscrotal hernia, now worsened by
   current volume overloaded state. Currently without dyspnea or pain.
   - demarcated both legs -> monitor for extension of erythema
   - on broad spectrum abx as above
   Hyponatremia: Hypervolemic as above. Urine Na of 15 and FeNa of 0.1%
   suggest cardiac or cirrhosis as etiology.  Psychiatric mediactions may
   also be contributing.
   - concentrating patients medications in normal saline instead of D5W
   - sodium stable at 129 today
   - daily sodium checks
   Schizophrenia: Currently intubated.
   - Cont risperdal
   - Hold ativan
   COPD: severe by PFTs in [**2155**] with FEV1 33% and FVC 51% of predicted
   - ipratropium and albuterol nebulizers QID
   Goals of care:  Seen by both social work and palliative care
   yesterday.  Discussion with patient
s ex-wife and children agreed that
   his ex-wife is his decision maker although no documented health care
   proxy form.  The decision was made to make the patient DNR for now and
   continue mechanical ventilation.  The decision has not been made yet
   whether to reintubate if the patient were to have respiratory failure
   post-intubation.
   - continue discussions with family regarding goals of care
   ICU Care
   Nutrition: Holding tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-7-14**] 08:00 PM
   Arterial Line - [**2157-7-14**] 11:00 PM
   18 Gauge - [**2157-7-15**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient, [**Name (NI) 7147**] [**Name (NI) 1028**] [**Telephone/Fax (1) 7148**] (H)
   [**Telephone/Fax (1) 7149**] (C), Program RN [**First Name4 (NamePattern1) 469**] [**Last Name (NamePattern1) 7144**] [**Telephone/Fax (1) 7150**]
   Code status: DNR, reintubation status to be readdressed with [**Doctor First Name 1028**]
   today
   Disposition : ICU

2157-07-16 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: RLL pneumonia, cirrhosis
   24 Hour Events:
   bronch'd yest w/ plugging on R-side. Extubated this am without
   incident. Now refusing PICC. Per Renal can resume cautious diuresis.
   Per Pall Care, ex-wife is decision-maker for patient and code status
   changes to DNR/DNI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-7-14**] 09:15 PM
   Metronidazole - [**2157-7-15**] 08:00 PM
   Vancomycin - [**2157-7-15**] 08:19 PM
   Meropenem - [**2157-7-16**] 12:18 AM
   Cefipime - [**2157-7-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-7-15**] 09:20 PM
   Other medications:
   flagyl, cefepime, albuterol, atrovent, vanco I q12, hep sc tid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-16**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 84 (64 - 90) bpm
   BP: 140/59(83) {101/47(63) - 154/67(92)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,421 mL
                                                                    337 mL
   PO:
             TF:
                                                                     58 mL
                                                                      3 mL
   IVF:
                                                                  1,363 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    460 mL
   Urine:
                                                                  1,640 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 561 (481 - 561) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/58/67/32/10
   Ve: 7.2 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, massively distended
   scrotum is stable
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: bright violoaceous patches on B LE stable
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): name
   place and time, Movement: Not assessed, Tone: Not assessed, somewhat
   perseverant speech
   Labs / Radiology
   8.5 g/dL
   156 K/uL
   98 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.1 mEq/L
   12 mg/dL
   88 mEq/L
   129 mEq/L
   25.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2157-7-14**]  06:27 PM
                             [**2157-7-14**]  08:17 PM
                             [**2157-7-14**]  11:25 PM
                             [**2157-7-15**]  12:59 AM
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
   WBC
   6.2
   4.7
   3.8
   Hct
   29.5
   26.2
   26.5
   25.4
   Plt
   189
   160
   156
   Cr
   0.6
   0.7
   0.5
   TropT
   <0.01
   TCO2
   41
   44
   42
   44
   42
   39
   Glucose
   148
   100
   98
   Other labs: PT / PTT / INR:12.8/36.6/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**12-22**], Alk Phos / T Bili:60/4.4,
   Differential-Neuts:86.8 %, Lymph:5.2 %, Mono:7.5 %, Eos:0.5 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Microbiology: [**7-15**] Bronchial aspirate- GPCs
   [**7-15**] RML BAL- neg
   [**7-14**] Blood and urine- neg or pending
   Assessment and Plan
   Hypoventilatory respiratory failure: related to underlying COPD and
   poss opiate intoxication, RLL collapse and poor respiratory reserve,
   possible pneumonia. extubated successfully this am
   -cont atrovent/ albuterol
   -f/u bronch specimens, treating for pneumonia as below
   -keep HOB up, pulm toilet
   Possible sepsis: has possible sources including pneumonia or LE
   cellulitis as well as small ascites/ SBP
   -broadly covered w/ vanco + cefepime + metronidazole, currently day 3
   of 8
   -hemodynamically stable
   -follow up culture data
   Obtundation: acute opiate administration yest, possible sepsis as above
   --> prob multifactorial, hypercapnia, now resolving but still somewhat
   perseverative
   -minimize sedatives
   -cont risperidone given underlying schizophrenia
   -treating for possible infection as above
   Downtrending Hct: serial Hct and guaiacs
   Lower body edema: likely multifactorial w/ RV failure and portal HTN
   -eventual continued diuresis once more hemodynamically stable
   -given sig met alkalosis w/ diuresis and concern for hypovent response
   in a pt w/ COPD, might consider acetazolamide diuresis down the road
   Goals of care: pt oriented but with variable responses to discussions
   about code status
   -swallow eval today
   -per ex-wife who is now agreed-upon decision-maker pt is DNR
   -d/c A-line
   -appreciate pall care consult
   Remaining plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po once swallow eval completed
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2157-7-14**] 08:00 PM
   Arterial Line - [**2157-7-14**] 11:00 PM
   18 Gauge - [**2157-7-15**] 01:09 AM
   Comments: d/c aline today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 35 minutes

2157-07-17 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2157-7-16**] 08:32 AM
   - Extubated successfully in AM
   - Clarified that patient will be DNR but okay to intubate.  Discussed
   with patient and his ex-wife
   - Health care proxy forms signed with ex-wife
   Allergies:
   [**Name2 (NI) 83**] Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-7-14**] 09:15 PM
   Meropenem - [**2157-7-16**] 12:18 AM
   Vancomycin - [**2157-7-16**] 07:30 PM
   Cefipime - [**2157-7-17**] 12:08 AM
   Metronidazole - [**2157-7-17**] 04:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-7-16**] 09:44 PM
   Heparin Sodium (Prophylaxis) - [**2157-7-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-17**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 94 (85 - 104) bpm
   BP: 140/65(86) {116/45(68) - 166/67(92)} mmHg
   RR: 19 (15 - 48) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,279 mL
                                                                    216 mL
   PO:
                                                                    240 mL
             TF:
                                                                      3 mL
   IVF:
                                                                  1,036 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    640 mL
   Urine:
                                                                  1,240 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     39 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (561 - 561) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.44/49/66/35/7
   Ve: 7.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General: Alert, oriented, no distress, sometimes perseverative
   HEENT: Sclera aniceteric, MM moist, oropharynx clear
   Neck: supple
   Lungs: Diminished breath sounds bilaterally, also with rhonchi and
   crackles on Right.
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, Obese, bowel sounds present, no organomegaly
   noted.  Large umbilical hernia, easily reducible.
   GU: Profound scrotal swelling
   Ext: warm, well perfused, 2+ DP pulses palpated through edema, 3+ edema
   to mid thigh and extensive scrotal edema as above, large areas of
   erythema over legs bilateral.
   Labs / Radiology
   169 K/uL
   8.8 g/dL
   109 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   10 mg/dL
   89 mEq/L
   130 mEq/L
   25.7 %
   3.1 K/uL
        [image002.jpg]
                             [**2157-7-15**]  12:59 AM
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
                             [**2157-7-16**]  10:29 AM
                             [**2157-7-16**]  04:00 PM
                             [**2157-7-17**]  04:00 AM
   WBC
   4.7
   3.8
   3.1
   Hct
   26.2
   26.5
   25.4
   25.7
   Plt
   160
   156
   169
   Cr
   0.7
   0.5
   0.5
   TCO2
   42
   44
   42
   39
   39
   34
   Glucose
   100
   98
   109
   Other labs: PT / PTT / INR:12.6/29.9/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**12-22**], Alk Phos / T Bili:60/4.4,
   Differential-Neuts:86.8 %, Lymph:5.2 %, Mono:7.5 %, Eos:0.5 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Microbiology:
[**2157-7-15**] 11:11 am BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2157-7-15**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   Imaging:
   The NG tube has been removed in the interim. Cardiomediastinal
   silhouette is
   unchanged. There is interval improvement in the aeration of the right
   lower
   lobe as well at the left lung base, most likely due to decrease in
   vascular
   engorgement. Bilateral pleural effusions are unchanged. The patient is
   after
   vertebroplasty of the mid thoracic vertebra.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 EDEMA, PERIPHERAL
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   Pneumonia/ hypoxic/hypercarbic respiratory failure: Likely
   multifactorial.  Patient had been aggressively diuresed on the floor
   and had rising serum bicarbonate and PCO2.  Also received narcotics in
   the setting of altered mental status.  Likely had aspiration event with
   subsequent plugging and lobar collapse. Sputum samples growing gram
   positive cocci in pairs and clusters.  On vancomycin, cefepime and
   flagyl for aspiration/hospital acquired pneumonia.
   - continue vancomycin, cefepime and flagyl for hospital acquired
   pneumonia v. aspiration for 8-day course
   - continue inhalers for COPD
   - f/u speciation of sputum cultures
   - wean off supplemental O2 as tolerated
   - strict aspiration precaution
   .
   ?Sepsis:  On arrival to the MICU patient was febrile in the absence of
   leukocytosis with mild hypotension.  [**Month (only) 11**] well have been related to
   aspiration event.  Now hemodynamically stable and afebrile for over 24
   hours
   - broad abx coverage with vanc/cefepime/flagyl pending further micro
   data (blood, urine, and sputum cx)
   - discontinue arterial line as patient is hemodynamically stable
   Altered mental status: Etiology unclear at this point, likely back at
   baseline. [**Month (only) 11**] be sepsis from pna, encephalopathy, hypercarbia, or less
   likely accumulation of morphine from earlier doses.  Intubated for
   hypoxic and hypercarbic respiratory failure.
   - treat infection as above
   - received seroquel
   - elevated bicarbonate resolving
   - recheck bicarb on gas
   - no need for CT head and LP for now
   Anemia: Hematocrit has slowly trended down from 33 on admission to 26
   today without obvious signs of bleeding.
   - guaiac all stools
   - active type and screen; transfusion goal < 21
   Low UOP:  Resolved.  Urology able to place foley catheter successfully
   yesterday for better monitoring of patient
s urine output.
   - monitor urine output
   - trend creatinine
   Lower extremity edema/possible cellulitis: Likely related to portal
   htn/cirrhosis. Long hx of inguinoscrotal hernia, now worsened by
   current volume overloaded state. Currently without dyspnea or pain.
   - demarcated both legs -> monitor for extension of erythema
   - on broad spectrum abx as above
   Hyponatremia: Hypervolemic as above. Urine Na of 15 and FeNa of 0.1%
   suggest cardiac or cirrhosis as etiology.  Psychiatric mediactions may
   also be contributing.
   - concentrating patients medications in normal saline instead of D5W
   - sodium stable at 129 today
   - daily sodium checks
   - hold diuretics for now but would consider acetazolamide given bicarb
   Schizophrenia: Currently intubated.
   - Received dose of risperdal consta
   - Hold ativan
   COPD: severe by PFTs in [**2155**] with FEV1 33% and FVC 51% of predicted
   - ipratropium and albuterol nebulizers QID
   Goals of care:  Seen by both social work and palliative care
   yesterday.  Discussion with patient
s ex-wife and children agreed that
   his ex-wife is his decision maker although no documented health care
   proxy form.  The decision was made to make the patient DNR for now and
   continue mechanical ventilation.  The decision has not been made yet
   whether to reintubate if the patient were to have respiratory failure
   post-intubation.
   - continue discussions with family regarding goals of care
   ICU Care
   Nutrition: Low sodium, regular, 1.5 liter fluid restriction
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-7-14**] 08:00 PM
   Arterial Line - [**2157-7-14**] 11:00 PM
   18 Gauge - [**2157-7-15**] 01:09 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  : Patient, [**Name (NI) 7147**] [**Name (NI) 1028**] [**Telephone/Fax (1) 7148**] (H) [**Telephone/Fax (1) 7149**]
   (C), Program RN [**First Name4 (NamePattern1) 469**] [**Last Name (NamePattern1) 7144**] [**Telephone/Fax (1) 7150**]
   Code status: Full code
   Disposition: ICU care for now

2157-07-17 10:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events: none
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-7-14**] 09:15 PM
   Meropenem - [**2157-7-16**] 12:18 AM
   Cefipime - [**2157-7-17**] 12:08 AM
   Metronidazole - [**2157-7-17**] 04:21 AM
   Vancomycin - [**2157-7-17**] 07:25 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2157-7-16**] 09:44 PM
   Heparin Sodium (Prophylaxis) - [**2157-7-16**] 10:00 PM
   Other medications:
   risperidone long-acting q 2wks
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-17**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 106 (85 - 106) bpm
   BP: 134/54(73) {112/54(71) - 134/68(82)} mmHg
   RR: 21 (15 - 48) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,279 mL
                                                                    934 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
                                                                      3 mL
   IVF:
                                                                  1,036 mL
                                                                    454 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    870 mL
   Urine:
                                                                  1,240 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     39 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.44/49/66/35/7
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, massive scrotal
   edema stable
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   169 K/uL
   109 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   10 mg/dL
   89 mEq/L
   130 mEq/L
   25.7 %
   3.1 K/uL
        [image002.jpg]
                             [**2157-7-15**]  12:59 AM
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
                             [**2157-7-16**]  10:29 AM
                             [**2157-7-16**]  04:00 PM
                             [**2157-7-17**]  04:00 AM
   WBC
   4.7
   3.8
   3.1
   Hct
   26.2
   26.5
   25.4
   25.7
   Plt
   160
   156
   169
   Cr
   0.7
   0.5
   0.5
   TCO2
   42
   44
   42
   39
   39
   34
   Glucose
   100
   98
   109
   Other labs: PT / PTT / INR:12.6/29.9/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**12-22**], Alk Phos / T Bili:60/4.4,
   Differential-Neuts:86.8 %, Lymph:5.2 %, Mono:7.5 %, Eos:0.5 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1
   mg/dL
   Imaging: [**7-17**] CXR- RLL infiltrate somewhat improved today
   Microbiology: [**7-15**] Sputum- oropharyngeal flora
   [**7-15**] bronch washing- cx pending
   [**7-15**] BAL- cx pending
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   Hypoventilatory respiratory failure: resolved, related to underlying
   COPD and poss opiate intoxication, RLL collapse and poor respiratory
   reserve, possible pneumonia. extubated successfully yest
   -f/u bronch specimens, treating for pneumonia as below
   -keep HOB up at all times, pulm toilet
   Possible sepsis: most likely due to pneumonia. high risk for recurrent
   aspiration
   -broadly covered w/ vanco + cefepime, currently day 4 of 8. dc
   metronidazole today
   -hemodynamically stable
   -follow up culture data
   -consider formal swallow evaluation
   Downtrending Hct: stable x 2 days.
   Schizophrenia: risperidone q2wks
   Lower body edema: likely multifactorial w/ RV failure and portal HTN
   -eventual continued diuresis once more hemodynamically stable
   -given sig met alkalosis w/ diuresis and concern for hypovent response
   in a pt w/ COPD, might consider acetazolamide diuresis
   Remaining plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet, should get formal sleep eval
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2157-7-14**] 08:00 PM
   Arterial Line - [**2157-7-14**] 11:00 PM
   18 Gauge - [**2157-7-15**] 01:09 AM
   Comments: a line dc'd this am
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2157-07-18 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2157-7-17**] 09:07 AM
 PICC LINE - START [**2157-7-17**] 10:51 AM
 CALLED OUT
   - Flagyl d/c
   - PICC placed with some ventricular ectopy.  Once PICC pulled back,
   ectopy resolved.
   - Switched from ipratroprium to home tiotroprium
   - Up to chair
   - called out but did not get a bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2157-7-16**] 12:18 AM
   Metronidazole - [**2157-7-17**] 04:21 AM
   Vancomycin - [**2157-7-17**] 08:00 PM
   Cefipime - [**2157-7-18**] 12:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-18**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 97 (85 - 108) bpm
   BP: 130/70(79) {91/42(58) - 134/72(82)} mmHg
   RR: 25 (13 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,690 mL
                                                                     50 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    730 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    490 mL
   Urine:
                                                                  1,860 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///33/
   Physical Examination
   General: Alert, oriented, no distress, sometimes perseverative
   HEENT: Sclera aniceteric, MM moist, oropharynx clear
   Neck: supple
   Lungs: Diminished breath sounds bilaterally, also with rhonchi and
   crackles on Right.
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, Obese, bowel sounds present, no organomegaly
   noted.  Large umbilical hernia, easily reducible.
   GU: Profound scrotal swelling
   Ext: warm, well perfused, 2+ DP pulses palpated through edema, 3+ edema
   to mid thigh and extensive scrotal edema as above, large areas of
   erythema over legs bilateral.
   Labs / Radiology
   176 K/uL
   8.9 g/dL
   105 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   10 mg/dL
   97 mEq/L
   133 mEq/L
   26.5 %
   2.4 K/uL
        [image002.jpg]
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
                             [**2157-7-16**]  10:29 AM
                             [**2157-7-16**]  04:00 PM
                             [**2157-7-17**]  04:00 AM
                             [**2157-7-18**]  04:00 AM
   WBC
   4.7
   3.8
   3.1
   2.4
   Hct
   26.2
   26.5
   25.4
   25.7
   26.5
   Plt
   160
   156
   169
   176
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   44
   42
   39
   39
   34
   Glucose
   100
   98
   109
   105
   Other labs: PT / PTT / INR:13.3/29.8/1.1, ALT / AST:[**10-20**], Alk Phos / T
   Bili:66/1.9, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Tbili: 1.9. Other LFTs and coags normal
   Bronchial wash and sputum cx: Oropharyngeal flora
   CXR: Improving atelectasis with some fluid in fissure
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   Pneumonia/ hypoxic/hypercarbic respiratory failure: Likely
   multifactorial.  Patient had been aggressively diuresed on the floor
   and had rising serum bicarbonate and PCO2.  Also received narcotics in
   the setting of altered mental status.  Likely had aspiration event with
   subsequent plugging and lobar collapse. Sputum samples grew
   oropharyngeal flora.  On vancomycin, cefepime and flagyl for
   aspiration/hospital acquired pneumonia.
   - continue vancomycin, cefepime for hospital acquired pneumonia v.
   aspiration for 8-day course to end on [**2157-7-21**]
   - continue spiriva
   - chest PT, flutter valve
   - wean off supplemental O2 as tolerated
   - strict aspiration precaution
   Altered mental status: Etiology unclear at this point, likely back at
   baseline. [**Month (only) 11**] be sepsis from pna, encephalopathy, hypercarbia, or less
   likely accumulation of morphine from earlier doses.  Intubated for
   hypoxic and hypercarbic respiratory failure, but now extubated.
   - treat infection as above
   - elevated bicarbonate resolving
   - if elevated bicarb an issue during diuresis, would try acetazolimide
   Anemia: Hematocrit has slowly trended down from 33 on admission, now
   stable without obvious signs of bleeding.
   - monitor
   Low UOP:  Resolved.  Urology able to place foley catheter successfully
   yesterday for better monitoring of patient
s urine output.
   - monitor urine output
   - trend creatinine
   Lower extremity edema/possible cellulitis: Likely related to portal
   htn/cirrhosis. Long hx of inguinoscrotal hernia, now worsened by
   current volume overloaded state. Currently much improved
   - demarcated both legs -> monitor for extension of erythema
   - on broad spectrum abx as above
   Hyponatremia: Hypervolemic as above. Urine Na of 15 and FeNa of 0.1%
   suggest cardiac or cirrhosis as etiology.
   - concentrating patients medications in normal saline instead of D5W
   - sodium stable at 133 today
   - daily sodium checks
   - hold diuretics for now but pulmonary recommendation would consider
   acetazolamide given bicarb
   Schizophrenia: Currently appropriate.
   - Received dose of risperdal consta
   - Hold ativan
   COPD: severe by PFTs in [**2155**] with FEV1 33% and FVC 51% of predicted
   - tiotroprium
   - albuterol nebulizers QID
   Leukopenia: Unclear etiology for downtrending WBC. Is 5-days into abx
   course.
   - Discontinue vanc given neg MRSA screen
   - Add diff
   Inguinal Hernia: Will need to readdress ?repair once acute issues
   resolved.
   Tobacco abuse: Nicotine patch
   Goals of care:  Seen by both social work and palliative care.  Patient
   signed HCP form making ex-wife HCP.  [**Name (NI) **] is now DNR and OK to reintubate
   if the patient were to have respiratory failure post-extubation.
   ICU Care
   Nutrition: Po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2157-7-17**] 10:51 AM
   22 Gauge - [**2157-7-17**] 10:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: HCP is ex-wife
   [**Name (NI) 129**] status: D
   Disposition:Transfer to floor

2157-07-18 09:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, RLL pneumonia
   24 Hour Events:
   PICC placed yest. Called out but no beds available
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2157-7-16**] 12:18 AM
   Metronidazole - [**2157-7-17**] 04:21 AM
   Cefipime - [**2157-7-18**] 12:41 AM
   Vancomycin - [**2157-7-18**] 08:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-7-18**] 08:45 AM
   Other medications:
   vanco, cefepime, docusate, Spiriva,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-18**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 90 (85 - 108) bpm
   BP: 124/61(75) {91/42(58) - 132/72(80)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,690 mL
                                                                    250 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    730 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    490 mL
   Urine:
                                                                  1,860 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -170 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: B bases, Rhonchorous:
   )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, stable scrotal edema
   Skin:  Not assessed, Rash: erythematous patches on B LE stable, no
   longer violaceous
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   176 K/uL
   105 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   10 mg/dL
   97 mEq/L
   133 mEq/L
   26.5 %
   2.4 K/uL
        [image002.jpg]
                             [**2157-7-15**]  04:02 AM
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
                             [**2157-7-16**]  10:29 AM
                             [**2157-7-16**]  04:00 PM
                             [**2157-7-17**]  04:00 AM
                             [**2157-7-18**]  04:00 AM
   WBC
   4.7
   3.8
   3.1
   2.4
   Hct
   26.2
   26.5
   25.4
   25.7
   26.5
   Plt
   160
   156
   169
   176
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   44
   42
   39
   39
   34
   Glucose
   100
   98
   109
   105
   Other labs: PT / PTT / INR:13.3/29.8/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**10-20**], Alk Phos / T Bili:66/1.9,
   Differential-Neuts:86.8 %, Lymph:5.2 %, Mono:7.5 %, Eos:0.5 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Imaging: [**7-17**] CXR- resolving R-sided infiltrate w/ areas of atelectasis
   and poss effusion
   Microbiology: [**7-14**] Sputum- oropharyngeal
   [**7-15**] Sputum- oropharyngeal
   [**7-15**] Bronch washing- oropharyngeal flora
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema re-admitted
   to MICU for pneumonia and hypoxic respiratory failure.
    Hypoventilatory respiratory failure: resolved, related to underlying
   COPD and poss opiate intoxication, RLL collapse and poor respiratory
   reserve, possible pneumonia. extubated successfully 3d ago
   -f/u bronch specimens, treating for pneumonia as below
   -keep HOB up at all times, pulm toilet
   -incentive spirometry and acapella device
   Leukopenia: prob related to meds
   -trend diff, and poss neutropenic precautions
   -stop vanco
   Possible sepsis: most likely due to pneumonia. high risk for recurrent
   aspiration
   -broadly covered w/  cefepime, currently day 5 of 8. dc vanco today
   -hemodynamically stable
   -follow up culture data
   -consider formal swallow evaluation
   Downtrending Hct: stable x 2 days.
   Schizophrenia: risperidone q2wks
   Lower body edema: likely multifactorial w/ RV failure and portal HTN
   -eventual continued diuresis once more hemodynamically stable
   -given sig met alkalosis w/ diuresis and concern for hypovent response
   in a pt w/ COPD, might consider acetazolamide diuresis
   COPD: stable on Spiriva and prn albuterol
   Remaining plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2157-7-17**] 10:51 AM
   22 Gauge - [**2157-7-17**] 10:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2157-07-19 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - WBC trending down but nl diff. D/c'd vanc as MRSA screen neg.
   - S&S recommended single sips as mild aspiration with multiple
   consecutive sips.
   - Had chest PT and used flutter valve throughout day
   - Assigned bed on floor but not transferred out of unit as desatting to
   82% on 40% ventimask when lying in bed. O2 supplementation increased to
   6LNC and 60% ventimask with pt maintaining O2 sats 88-92%.
   - Started nicotine TP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2157-7-17**] 04:21 AM
   Vancomycin - [**2157-7-18**] 08:45 AM
   Cefipime - [**2157-7-18**] 12:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-7-18**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-19**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 83 (70 - 102) bpm
   BP: 107/50(63) {99/34(51) - 132/66(81)} mmHg
   RR: 16 (14 - 41) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    456 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                    456 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    490 mL
   Urine:
                                                                  1,495 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,039 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Venti mask
   SpO2: 92%
   ABG: ///32/
   Physical Examination
    General: Alert, oriented, no distress, pleasant, conversant
   HEENT: Sclera aniceteric, MM moist, oropharynx clear
   Neck: supple
   Lungs: Diminished breath sounds bilaterally, otherwise clear to
   auscultation bilatrerally
   CV: RRR, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, Obese, bowel sounds present, no organomegaly
   noted.  Large umbilical hernia, easily reducible.
   GU: Profound scrotal swelling
   Ext: warm, well perfused, 2+ DP pulses palpated through edema, 3+ edema
   to mid thigh and extensive scrotal edema as above, large areas of
   erythema over legs bilaterally
   Labs / Radiology
   173 K/uL
   9.1 g/dL
   102 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.3 mEq/L
   10 mg/dL
   95 mEq/L
   131 mEq/L
   27.9 %
   3.0 K/uL
        [image002.jpg]
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
                             [**2157-7-16**]  10:29 AM
                             [**2157-7-16**]  04:00 PM
                             [**2157-7-17**]  04:00 AM
                             [**2157-7-18**]  04:00 AM
                             [**2157-7-19**]  02:37 AM
   WBC
   3.8
   3.1
   2.4
   3.0
   Hct
   26.5
   25.4
   25.7
   26.5
   27.9
   Plt
   156
   169
   176
   173
   Cr
   0.5
   0.5
   0.5
   0.4
   TCO2
   44
   42
   39
   39
   34
   Glucose
   98
   109
   105
   102
   Other labs: PT / PTT / INR:12.5/30.2/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**10-20**], Alk Phos / T Bili:66/1.9,
   Differential-Neuts:70.5 %, Lymph:16.2 %, Mono:11.6 %, Eos:1.6 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
[**2157-7-14**] 9:10 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2157-7-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
         STREPTOCOCCUS PNEUMONIAE.    MODERATE GROWTH.
[**2157-7-15**] 11:11 am BRONCHIAL WASHINGS
                            **FINAL REPORT [**2157-7-17**]**
   GRAM STAIN (Final [**2157-7-15**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2157-7-17**]):    ~1000/ML OROPHARYNGEAL
   FLORA.
   CXR ordered for 10:30
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema now
   re-admitted to MICU for pneumonia and hypoxic respiratory failure.
   Pneumonia/ hypoxic/hypercarbic respiratory failure: Likely
   multifactorial.  Patient had been aggressively diuresed on the floor
   and had rising serum bicarbonate and PCO2.  Also received narcotics in
   the setting of altered mental status.  Likely had aspiration event with
   subsequent plugging and lobar collapse. Flagyl discontinued [**7-17**], vanc
   discontinued [**7-18**] for leucopenia. Sputum cx now growing S. pneumo.
   - cultures have grown strep pneumoniae, will switch to levofloxacin 750
   mg PO for plans for 8 day course to end on [**2157-7-21**]
   - Continue spiriva
   - Chest PT, acapella valve
   - Wean off supplemental O2 as tolerated
   - Strict aspiration precaution
   Altered mental status: Etiology unclear at this point. [**Month (only) 11**] be sepsis
   from pna, encephalopathy, hypercarbia, or less likely accumulation of
   morphine from earlier doses.  Intubated for hypoxic and hypercarbic
   respiratory failure, but now extubated. MS likely back to baseline.
   - treating infection as above
   - elevated bicarbonate resolving
   - if elevated bicarb an issue during diuresis, would try acetazolimide
   Anemia: Hematocrit has slowly trended down from 33 on admission, now
   stable without obvious signs of bleeding.
   - Monitor
   Hyponatremia: Hypervolemic as above. Urine Na of 15 and FeNa of 0.1%
   suggest cirrhosis as etiology given unremarkable TTE.
   - Concentrating patients medications in normal saline instead of D5W
   - 1.5 liter fluid restriction
   - Daily sodium checks
   - Hold diuretics for now but would consider acetazolamide on the floor
   given high bicarb
   Lower extremity edema/possible cellulitis: Likely related to portal
   HTN/cirrhosis. Long hx of inguinoscrotal hernia, now worsened by
   current volume overloaded state. Currently much improved
   - Demarcated both legs -> monitor for extension of erythema
   - Continue abx as above
   - Likely will need general surgery consult for inguinoscrotal hernia,
   which has now worsened.
   Schizophrenia: Currently appropriate.
   - Received q2 week dose of risperdal consta on [**2157-7-15**]
   - Holding ativan
   COPD: severe by PFTs in [**2155**] with FEV1 33% and FVC 51% of predicted
   - Cont tiotroprium
   - Cont albuterol nebulizers QID
   Leukopenia: Unclear etiology for downtrending WBC, may be secondary to
   abx (vancomycin). WBC now improving after vanc discontinued yesterday.
   - Cont to trend WBC
   Inguinal Hernia: Will need to readdress question of repair once acute
   issues resolved.
   Tobacco abuse: Nicotine patch
   Goals of care:  Seen by both social work and palliative care.  Patient
   signed HCP form making ex-wife HCP.  [**Name (NI) **] is now DNR and OK to reintubate
   if the patient were to have respiratory failure.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2157-7-17**] 10:51 AM
   22 Gauge - [**2157-7-17**] 10:51 AM
   Prophylaxis:
   DVT: Boots, SQ heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: HCP is ex-wife
   [**Name (NI) 129**] status: DNR, ok to reintubate
   Disposition: Transfer to floor

2157-07-19 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, RLL Pneumonia
   24 Hour Events:
   no events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2157-7-17**] 04:21 AM
   Vancomycin - [**2157-7-18**] 08:45 AM
   Cefipime - [**2157-7-18**] 12:07 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-7-19**] 08:00 AM
   Other medications:
   docusate, tiotropium, nicotine, Albuterol, senna, lactulose
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-7-19**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 80 (70 - 102) bpm
   BP: 111/49(64) {99/34(51) - 132/66(81)} mmHg
   RR: 14 (14 - 41) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    456 mL
                                                                    817 mL
   PO:
             720 mL
   TF:
   IVF:
                                                                    456 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    880 mL
   Urine:
                                                                  1,495 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,039 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, stable scrotal edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   173 K/uL
   102 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.3 mEq/L
   10 mg/dL
   95 mEq/L
   131 mEq/L
   27.9 %
   3.0 K/uL
        [image002.jpg]
                             [**2157-7-15**]  04:13 AM
                             [**2157-7-15**]  06:33 AM
                             [**2157-7-15**]  05:46 PM
                             [**2157-7-15**]  09:06 PM
                             [**2157-7-16**]  03:52 AM
                             [**2157-7-16**]  10:29 AM
                             [**2157-7-16**]  04:00 PM
                             [**2157-7-17**]  04:00 AM
                             [**2157-7-18**]  04:00 AM
                             [**2157-7-19**]  02:37 AM
   WBC
   3.8
   3.1
   2.4
   3.0
   Hct
   26.5
   25.4
   25.7
   26.5
   27.9
   Plt
   156
   169
   176
   173
   Cr
   0.5
   0.5
   0.5
   0.4
   TCO2
   44
   42
   39
   39
   34
   Glucose
   98
   109
   105
   102
   Other labs: PT / PTT / INR:12.5/30.2/1.1, CK / CKMB /
   Troponin-T:12//<0.01, ALT / AST:[**10-20**], Alk Phos / T Bili:66/1.9,
   Differential-Neuts:70.5 %, Lymph:16.2 %, Mono:11.6 %, Eos:1.6 %, Lactic
   Acid:0.4 mmol/L, LDH:224 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Microbiology: [**7-14**] Sputum- S. pneumo
   Assessment and Plan
   69 yo man with hx of schizophrenia, COPD, prostate ca, and cryptogenic
   cirrhosis presents with anasarca and profound scrotal edema re-admitted
   to MICU for pneumonia and hypoxic respiratory failure.
   S. pneumo pneumonia-
   -day [**6-13**] cefepime, narrow to just S.pneumo coverage with levofloxacin
   po
   -flutter valve for sputum production, pulm toilet, incentive spirometry
   COPD-
   -spiriva, prn nebs
   -stable
   Leukopenia- resolving now that vanco dc'd
   Schizophrenia- risperidone q2wks
   Lower body edema- likely multifactorial w/ RV failure and portal HTN
   -eventual continued diuresis
   Scrotal edema- large inguinal hernia
   -needs eventual Surgical opinion
   Remaining plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2157-7-17**] 10:51 AM
   22 Gauge - [**2157-7-17**] 10:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes